US05786508
To a stirred solution of 2-acetamido-4-(2-amino-5-chlorophenyl)-4-oxo-butyric acid (0.569 g; 2 mmol) in dry DMF (8 ml), 1,1'-carbonyldiimidazole (0.34 g; 2.1 mmol) was added portionwise at 5°-8° C. under nitrogen. After stirring at 5° C. for 1.5 h, (R)-(-)-2-amino-2-phenylethanol (0.33 g; 2.4 mmol) in dry DMF (6 ml) was added dropwise at 3°-5° C. The reaction was then stirred for 2 h in an ice bath and 16 h at room temperature, quenched with water and extracted with ethyl acetate. The organic layer was washed with water, dried with an. sodium sulfate and concentrated to dryness. The residue was purified by flash-chromatography on silica gel (ethyl acetate:methanol=98:2) to yield 2-acetylamino-4-(2-amino-5-chlorophenyl)-N-(2-hydroxy-1-phenyl-ethyl)-4-oxobutyramide as a yellow solid (0.18 g; 22%; m.p. 212°-215° C.) (pure diastereoisomer with Rf<).

reactant | 2-acetamido-4-(2-amino-5-chlorophenyl)-4-oxo-butyric acid | 2 mmol, 0.569 g | C(C)(=O)NC(C(=O)O)CC(=O)C1=C(C=CC(=C1)Cl)N | C12H13ClN2O4
reactant | 1,1'-carbonyldiimidazole | 2.1 mmol, 0.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-(-)-2-amino-2-phenylethanol | 2.4 mmol, 0.33 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-acetylamino-4-(2-amino-5-chlorophenyl)-N-(2-hydroxy-1-phenyl-ethyl)-4-oxobutyramide | C(C)(=O)NC(C(=O)NC(CO)C1=CC=CC=C1)CC(=O)C1=C(C=CC(=C1)Cl)N | C20H22ClN3O4
